US06743810B2
Analogously to Example 1.4, 1.2 g (3.88 mmol) of ethyl 3-phenyl-3-(6-hydroxyindol-3-yl)propionate are reacted with 1.16 g (7.6 mmol) of 4-bromo-1-butanol in the presence of 2.1 g (15.2 mmol) of potassium carbonate in 30 ml of acetone, giving ethyl 3-phenyl-3-[6-(4-hydroxybutoxy)indol-3-yl]propionate.

reactant | ethyl 3-phenyl-3-(6-hydroxyindol-3-yl)propionate | 3.88 mmol, 1.2 g | C1(=CC=CC=C1)C(CC(=O)OCC)C1=CNC2=CC(=CC=C12)O | C19H19NO3
reactant | 4-bromo-1-butanol | 7.6 mmol, 1.16 g | BrCCCCO | C4H9BrO
reactant | potassium carbonate | 15.2 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | ethyl 3-phenyl-3-[6-(4-hydroxybutoxy)indol-3-yl]propionate | C1(=CC=CC=C1)C(CC(=O)OCC)C1=CNC2=CC(=CC=C12)OCCCCO | C23H27NO4
